US07795262B2
Step 6. Preparation of 2-cyclopentyl-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine hydrochloride
To a solution of tert-butyl 2-cyclopentyl-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate (720 g, 2.47 mmol) in dioxane (5 mL) is added 4N HCl in dioxane

reactant | tert-butyl 2-cyclopentyl-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine-5-carboxylate | 2.47 mmol, 720 g | C1(CCCC1)N1N=C2C(CN(CC2)C(=O)OC(C)(C)C)=C1 | C16H25N3O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-cyclopentyl-2,4,6,7-tetrahydro-5H-pyrazolo[4,3-c]pyridine hydrochloride | Cl.C1(CCCC1)N1N=C2C(CNCC2)=C1 | InChI=1S/C11H17N3.ClH/c1-2-4-10(3-1)14-8-9-7-12-6-5-11(9)13-14;/h8,10,12H,1-7H2;1H
